US07939526B2
Trimethyl orthovalerate (3.6 mL, 21 mmol) and pyridine hydrochloride (0.22 g, 1.9 mmol) were added to a solution of 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol (prepared as described in Part A of Example 8, approximately 4.4 g, 19 mmol) in acetonitrile (96 mL). The reaction mixture was heated at reflux for 1 hour, then was allowed to cool to room temperature and was concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to yield 4.1 g of 1-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as a white foam.

reactant | Trimethyl orthovalerate | 21 mmol, 3.6 mL | C(CCCC)(OC)(OC)OC | C8H18O3
reactant | pyridine hydrochloride | 1.9 mmol, 0.22 g | Cl.N1=CC=CC=C1
reactant | 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol | NC=1C=NC2=CC=CC=C2C1NCC(C)(O)C | C13H17N3O
solvent | acetonitrile | 96 mL | C(C)#N | C2H3N
product | 1-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 4.1 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C18H23N3O
